US06777443B2
To a solution of BOC-α-methylalanine (3.05 g, 15 mmol), O-benzyl-L-serine ethyl ester hydrochloride (3.89 g, 15 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDCl, 2.88 g, 15 mmol) and 1-hydroxy-7-azabenzotriazole (HOAT, 2.04, 15 mmol) in methylene chloride (150 mL) is added triethylamine (1.52 g, 15 mmol). The mixture is stirred overnight and then concentrated in vacuo. The residue is re-dissolved in ethyl acetate and washed with water, 1 N HCl, water, and brine. The solution is dried over sodium sulfate and concentrated to yield N-[2-(BOC-amino)-2-methylpropionyl]-O-benzyl-L-serine ethyl ester of the formula

reactant | BOC-α-methylalanine | 15 mmol, 3.05 g | C(=O)(OC(C)(C)C)NC(C)(C(=O)O)C | C9H17NO4
reactant | O-benzyl-L-serine ethyl ester hydrochloride | 15 mmol, 3.89 g | Cl.C(C)OC([C@@H](N)COCC1=CC=CC=C1)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 15 mmol, 2.88 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-7-azabenzotriazole | 15 mmol | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 15 mmol, 1.52 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(BOC-amino)-2-methylpropionyl]-O-benzyl-L-serine ethyl ester | C(C)OC([C@@H](NC(C(C)(C)NC(=O)OC(C)(C)C)=O)COCC1=CC=CC=C1)=O | C21H32N2O6
